US06114531
7-Chloro-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid.
A mixture of tetrahydrofuran (450 cm3), water (50 cm3), methanesulfonic acid (127 cm3) and ethyl 7-chloro-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate (United Kingdom Patent Publication No. GB 2,191,776) was heated at reflux for 1 hour, and then cooled to 25° C. The resulting crystals were isolated, washed with tetrahydrofuran, and dried under vacuum to afford 41.3 g (89%) of the above-titled compound: m.p.=250° C.; (Found: C, 50.4; H, 1.7; Cl, 9.9; F, 16.0; N, 8.0. C15H6ClF3N2O3 requires C, 50.8; H, 1.7; Cl, 10.0; F, 16.1; N, 7.9%); 1H NMR (300 MHz, d6 -DMSO) δ 13.9 (s, 1H), 9.09 (s, 1H), 8.77 (d, J=7.5 Hz, 1H), 7.86 (td, J=5.9 and 8.8 Hz, 1H), 7.66 (ddd, J=2.7, 9.0 and 11.8 Hz, 1H), 7.39 (tm, J=8.6 Hz, 1H), 7.39 (tm, J=8.6 Hz, 1H); νmax (DRIFTS) cm-1 3130, 3060, 2947, 2885, 2821, 2723, 2637, 2594, 1734, 1641, 1623, 1579, 1544, 1516.

reactant | tetrahydrofuran | 450 cm3 | O1CCCC1 | C4H8O
reactant | methanesulfonic acid | 127 cm3 | CS(=O)(=O)O | CH4O3S
reactant | ethyl 7-chloro-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | ClC1=C(C=C2C(C(=CN(C2=N1)C1=C(C=C(C=C1)F)F)C(=O)OCC)=O)F | C17H10ClF3N2O3
solvent | water | 50 cm3 | O | H2O
product | 7-Chloro-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 41.3 g, 89% | ClC1=C(C=C2C(C(=CN(C2=N1)C1=C(C=C(C=C1)F)F)C(=O)O)=O)F | C15H6ClF3N2O3
